US04006245
A solution of 3.5 parts of 8-allyl-7-[3-(4-acetyl-2-allyl-3-hydroxyphenoxy)-2-hydroxypropoxy]-4-oxo-4H-1-benzopyran-2-carboxylic acid and 0.584 parts of sodium bicarbonate in 500 parts of water was freeze dried to yield 3.5 parts of 8-allyl-7-[3-(4-acetyl-2-allyl-3-hydroxyphenoxy)-2-hydroxypropoxy]-4-oxo-4H-1-benzopyran-2-carboxylic acid sodium salt as a white solid, melting point 249°-251° C.

reactant | 8-allyl-7-[3-(4-acetyl-2-allyl-3-hydroxyphenoxy)-2-hydroxypropoxy]-4-oxo-4H-1-benzopyran-2-carboxylic acid | C(C=C)C1=C(C=CC=2C(C=C(OC21)C(=O)O)=O)OCC(COC2=C(C(=C(C=C2)C(C)=O)O)CC=C)O | C27H26O9
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | 8-allyl-7-[3-(4-acetyl-2-allyl-3-hydroxyphenoxy)-2-hydroxypropoxy]-4-oxo-4H-1-benzopyran-2-carboxylic acid sodium salt | [Na+].C(C=C)C1=C(C=CC=2C(C=C(OC21)C(=O)[O-])=O)OCC(COC2=C(C(=C(C=C2)C(C)=O)O)CC=C)O | InChI=1S/C27H26O9.Na/c1-4-6-19-22(10-8-17(15(3)28)25(19)31)34-13-16(29)14-35-23-11-9-18-21(30)12-24(27(32)33)36-26(18)20(23)7-5-2;/h4-5,8-12,16,29,31H,1-2,6-7,13-14H2,3H3,(H,32,33);/q;+1/p-1
